US09085555B2
C. (2S,4S)-4-[Methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of ((2S,4S)-4-[methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (360 mg, 0.83 mmol) in MeOH (20 mL) was added aq. 1N NaOH (1.66 mL, 1.66 mmol). The reaction was stirred at RT for 16 h then was concentrated. The residue was acidified with aq 2N HCl to pH 3, extracted with EtOAc (2×25 mL). The organic phases were joined, dried over Na2SO4, filtered and concentrated. The crude residue was used without further purification in the next step. MS (UPLC): 421 [M+H]+, 419 [M−H]−; tR (HPLC conditions f): 1.00 min.

reactant | (2S,4S)-4-[methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.83 mmol, 360 mg | COC(=O)[C@H]1N(C[C@H](C1)N(C(=O)OCC(Cl)(Cl)Cl)C)C(=O)OC(C)(C)C | C15H23Cl3N2O6
reactant | NaOH | 1.66 mmol, 1N, 1.66 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (2S,4S)-4-[Methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N(C(=O)OCC(Cl)(Cl)Cl)C)C(=O)O | C14H21Cl3N2O6
